US06645953B2
Preparation of 7-oxo-5α-cholest-8-ene-3β-ol.
0.50 g of 3β-acetoxy-7-oxo-5α-cholest-8-ene (Fieser, L F J Am Chem Soc (1953) 4395) was refluxed in a mixture of 30 ml of ethanol and 20 ml of 1 M aqueous sodium hydroxide for 1 hour. After cooling to room temperature, 23 ml of 1M hydrochloric acid and 100 ml of water were added. After cooling on an ice bath, the precipitate was filtered off, washed with water and dried to give 0.435 g of the crude compound which was purified by chromatography on silica gel (methylene chloride/methanol, 40:1 (w/w)) and crystallized from methanol/water to give 0.198 g of the title compound. Melting point: 115-117° C. The 1H-NMR spectrum (CDCl3,d) showed characteristic signals at: 0.59 (s,3H); 1.18 (s,3H); 3.64 (m,1H). The 13C-NMR spectrum (CDCl3, 100.6 MHz) showed characteristic signals at: 69.5; 132.8; 164.8; 198.6.

reactant | 3β-acetoxy-7-oxo-5α-cholest-8-ene | 0.50 g | C(C)(=O)O[C@@H]1C[C@@H]2CC(C=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC1)C)C)=O | C29H46O3
reactant | hydrochloric acid | 1M, 23 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 M, 20 ml | [OH-].[Na+]
product | 7-oxo-5α-cholest-8-ene-3β-ol | 0.198 g | O=C1C=2[C@@H]3CC[C@H]([C@@H](CCCC(C)C)C)[C@]3(CCC2[C@]2(CC[C@@H](C[C@@H]2C1)O)C)C | C27H44O2
